US04665174
Into the same flask as used in Example 1, thioacetic acid (35 g) and triethylamine (7 g) were charged, and 2-n-pentyl-3-hydroxy-3-methyl-4-cyclopentenone (18.2 g) was dropwise added thereto at a temperature of 20° to 35° C. for 1 hour. Thereafter, the reaction mixture was stirred at a temperature of 40° to 60° C. for 3 hours. After completion of the reaction, the mixture was diluted with toluene (50 ml) and treated in the same manner as in Example 50 to obtain 2-n-pentyl-3-methyl-4-acetylthio-2-cyclopentenone (24.1 g). Yield, 94%. nD20 1.5146.

reactant | thioacetic acid | 35 g | C(C)(=S)O | C2H4OS
reactant | triethylamine | 7 g | C(C)N(CC)CC | C6H15N
reactant | 2-n-pentyl-3-hydroxy-3-methyl-4-cyclopentenone | 18.2 g | C(CCCC)C1C(C=CC1(C)O)=O | C11H18O2
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 2-n-pentyl-3-methyl-4-acetylthio-2-cyclopentenone | 24.1 g | C(CCCC)C=1C(CC(C1C)SC(C)=O)=O | C13H20O2S
